US07153870B2
5-Fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinic acid ethyl ester
A solution of ethyl-2-chloro-5-fluoro-nicotinoate (29 g, 0.143 mol) (prepared according to the method of J. Med. Chem., 1993, 36(18), 2676–88, at page 2684, column 2, 3rd compound, Ethyl 2-chloro-5-fluoropyridine-3-carboxylic acid) and 3-methylsulphanyl-phenol (20 g, 0.143 mol) (prepared according to the method of WO 98/45268, page 68, preparation 61) in dioxane (300 mL) was treated with caesium carbonate (46.5 g, 0.143 mol) at room temperature. The reaction mixture was heated to 100° C. and stirred for 48 hours. The reaction mixture was concentrated in vacuo and the residue taken up in water (600 mL) and extracted with ethyl acetate (3×250 mL). The organic layers were combined, washed with brine (200 mL), dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with dichloromethane:toluene (99.75:0.25 to 99.5:0.5) to yield the title product as a yellow oil, 27.1 g.

reactant | ethyl-2-chloro-5-fluoro-nicotinoate | 0.143 mol, 29 g | C(C)OC(C1=C(N=CC(=C1)F)Cl)=O | C8H7ClFNO2
reactant | Ethyl 2-chloro-5-fluoropyridine-3-carboxylic acid | C(C)C1=C(C(=NC=C1F)Cl)C(=O)O | C8H7ClFNO2
reactant | 3-methylsulphanyl-phenol | 0.143 mol, 20 g | CSC=1C=C(C=CC1)O | C7H8OS
reactant | caesium carbonate | 0.143 mol, 46.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 5-Fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O | C15H14FNO3S
